US07618982B2
DL-3-tert-butoxycarbonylamino-4-(tert-butyl-dimethyl-silanyloxy)-butyric acid
To a solution of 1 g of DL-3-tert-butoxycarbonylamino-4-hydroxy-butyric acid in a mixture of DMF/DCM 1:5, 1.24 g of imidazole and 1.7 g of tert-butyldimethylsilyl chloride were added. The solution was left stirring at room temperature overnight. The solution was extracted three times with 5% aq. NaHSO4 and the aqueous phases were washed twice with DCM. The organic extracts were dried over anh. sodium sulfate and the solvent evaporated under vacuum to provide 2.1 g of the title compound.

reactant | 3-tert-butoxycarbonylamino-4-hydroxy-butyric acid | C(C)(C)(C)OC(=O)NC(CC(=O)O)CO | C9H17NO5
reactant | imidazole | 1.24 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 1.7 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF DCM | CN(C)C=O.C(Cl)Cl
product | 3-tert-butoxycarbonylamino-4-(tert-butyl-dimethyl-silanyloxy)-butyric acid | 2.1 g | C(C)(C)(C)OC(=O)NC(CC(=O)O)CO[Si](C)(C)C(C)(C)C | C15H31NO5Si
